US04621901
A mixture of 3.6 g of 2-(4-pentenyl)-1,3-propanediol, 4.4 g of p-butoxybenzaldehyde, 75 ml of toluene and 3 drops of 10% sulphuric acid was heated to boiling for 2.5 hours, whereby about 50 ml of wet solvent were distilled off and were replaced by the dropwise addition of 50 ml of fresh toluene. Thereafter, the mixture was neutralized with 4 drops of triethylamine and, after cooling, was extracted twice with 50 ml of 5% sodium hydrogen carbonate solution each time and twice with 50 ml of water each time. The organic phase was dried over sodium sulphate and concentrated. The residue (7.5 g) was chromatographed on silica gel with hexane/ethyl acetate (vol. 92:8), whereby 4.2 g of trans-4-(p-butoxyphenyl)-5-(4-pentenyl)-m-dioxane were obtained. Two-fold recrystallization from hexane gave 2.2 g of pure product with m.p. (C--N) 29.5° C. and cl.p. (N--I) 30.7° C.

reactant | 2-(4-pentenyl)-1,3-propanediol | 3.6 g | C(CCC=C)C(CO)CO | C8H16O2
reactant | p-butoxybenzaldehyde | 4.4 g | C(CCC)OC1=CC=C(C=O)C=C1 | C11H14O2
reactant | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
catalyst | sulphuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
product | trans-4-(p-butoxyphenyl)-5-(4-pentenyl)-m-dioxane | 4.2 g | C(CCC)OC1=CC=C(C=C1)[C@@H]1OCOC[C@H]1CCCC=C | C19H28O3
